US05246943
3-Methoxy-2-(4-nitrophenoxy)benzaldehyde
A mixture of 14.10 g (0.10 mole) of 4-fluoronitrobenzene, 16.40 g (0.10 mole) of o-vanillin, 30 g of powdered potassium carbonate, and 40 mL of DMF is heated with stirring to the boiling point. After 10 minutes the mixture is cooled to 100° C. and 300 mL of ice water is added. Petroleum ether (200 mL) is added and the entire mixture is filtered and the cake is washed with 200 mL of water and then 200 mL of petroleum ether. The damp cake is slurried in 100 mL of methanol and filtered; wt 19.50 g (71% yield); mp 130°-131° C.; mass spectrum (DEI), 273 (M+).

reactant | 4-fluoronitrobenzene | 0.10 mole, 14.10 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | o-vanillin | 0.10 mole, 16.40 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-Methoxy-2-(4-nitrophenoxy)benzaldehyde | 71% yield | COC=1C(=C(C=O)C=CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C14H11NO5
